US07777031B2
Step C: (6-Chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone.
A 5-L, 3-necked, round-bottomed flask was equipped with a mechanical stirrer and a thermocouple and charged with 1-cyclobutyl-[1,4]diazepane dihydrochloride (110.0 g, 484.6 mmol), 1 N NaOH (1400 mL) and isopropyl acetate (600 mL). A pre-cooled (0° C.) solution of 6-chloronicotinyl chloride (82.7 g, 470.0 mmol) in isopropyl acetate (800 mL) was added via an addition funnel at a rate such that the reaction temperature was maintained between 5-10° C. After the addition was complete, the reaction mixture was warmed to rt and stirred for 2 h (pH of reaction mixture ca. 5.6). The reaction mixture was basified with 2 N NaOH(aq) (to pH ca. 13). The phases were separated and the aqueous layer was extracted with isopropyl acetate (2×300 mL). Some reddish-brown flocculent material was observed during the extractions. The organic layers were pooled and filtered through a pad of diatomaceous earth. The filtrate was washed with satd. aq. NaCl (1×300 mL) and dried over anhydrous Na2SO4. Filtration and removal of the solvent by rotary evaporation under reduced pressure afforded the crude product as a reddish brown oil (126.0 g, 91%). 1H-NMR (400 MHz, CDCl3) δ ppm: 8.45 (m, 1H), 7.74 (m, 1H), 7.39 (m, 1H), 3.86-3.76 (m, 2H), 3.53-3.45 (m, 2H), 3.05-2.80 (m, 1H), 2.70 (br s, 1H), 2.62-2.45 (m 3H), 2.10-1.56 (m, 8H). MS m/z (ESI+): 294.1 (M+H+). HPLC (Method B): Rt=6.06 min.

reactant | 1-cyclobutyl-[1,4]diazepane dihydrochloride | 484.6 mmol, 110.0 g | Cl.Cl.C1(CCC1)N1CCNCCC1
reactant | NaOH | 1 N, 1400 mL | [OH-].[Na+]
reactant | 6-chloronicotinyl chloride | 470.0 mmol, 82.7 g | ClC1=NC=C(CCl)C=C1 | C6H5Cl2N
reactant | NaOH | 2 N, pH ca. 13 | [OH-].[Na+]
solvent | isopropyl acetate | 800 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | isopropyl acetate | 600 mL | C(C)(=O)OC(C)C | C5H10O2
product | (6-Chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone | 126.0 g, 91% | ClC1=CC=C(C=N1)C(=O)N1CCN(CCC1)C1CCC1 | C15H20ClN3O
